US04362666
To the suspension of 12.8 g of 2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine in 460 ml of tetrahydrofuran, 200 ml of 1-molar diborane in tetrahydrofuran are added while stirring and cooling with ice. The mixture is refluxed for one hour, again cooled and combined with 25 ml of acetic acid. It is evaporated, the residue taken up in 50 ml of 30% aqueous sodium hydroxide and the mixture extracted with methylene chloride. The extract is dried, evaporated, the residue dissolved in diethyl ether, the solution filtered and the filtrate evaporated, to yield the 2-methyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine.

reactant | 2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | 12.8 g | CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)C(C1=O)=O | C16H15N3O2
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 460 ml | O1CCCC1 | C4H8O
solvent | diborane | 1-molar, 200 ml | B#B | B2
product | 2-methyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C16H19N3
